US07635715B2
Step B: Preparation of N-((7-Cyano-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-cyano-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-yl)carbonyl)glycinate (163 mg, 440 μmol) was stirred in TFA (1 mL, 13462 μmol) at room temperature for 20 minutes. Water was added. The resulting precipitate was filtered and washed with water to give the desired product as an off-white solid (126 mg). MS (m/e)=315.1 (M+H)+. Calculated for C16H14N2O5 314.09.

reactant | 1,1-Dimethylethyl N-((7-cyano-4-hydroxy-1,1-dimethyl-2-oxo-naphthalene-3-yl)carbonyl)glycinate | 440 μmol, 163 mg | C(#N)C1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H22N2O5
reactant | TFA | 13462 μmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Water | O | H2O
product | N-((7-Cyano-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 126 mg | C(#N)C1=CC=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)O)O | C16H14N2O5
